US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-(trifluoromethyl)benzenesulphonyl chloride were reacted, followed by treatment with N-allylmethylamine to yield trans-N-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 461 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(trifluoromethyl)benzenesulphonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | N-allylmethylamine | C(C=C)CN | C4H9N
product | trans-N-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | C(C=C)N(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C23H35F3N2O2S
